US08835462B2
To a solution of tert-butyl-(3S,7S,8R,9S)-7-benzyl-8-hydroxy-9-methyl-2-oxo-1,5-dioxonan-3-ylcarbamate (72 mg, 0.19 mmol) in pyridine (1 mL) at 0° C. was added isobutyryl chloride (80 μL, 0.76 mmol) and the solution was stirred at 0° C. for 2 h. The crude reaction mixture was warmed to room temperature, water (1 mL) was added, and the solution was stirred for 30 min. The reaction mixture was extracted with Et2O (3×) and the combined organic extracts were dried over Na2SO4, filtered, and concentrated. The crude product was purified by flash chromatography (silica gel, 20% EtOAc/hexanes, TLC Rf=0.5) to furnish (3S,6S,7R,8S)-8-benzyl-3-(tert-butoxycarbonylamino)-6-methyl-4-oxo-1,5-dioxonan-7-yl isobutyrate as a white foam (45 mg, 53%): 1H NMR (400 MHz, CDCl3) δ 7.31-7.11 (m, 5H), 5.14 (d, J=8.0 Hz, 1H), 5.03 (m, 1H), 4.94 (t, J=9.2 Hz, 1H), 4.66 (d, J=7.7 Hz, 1H), 3.89 (dd, J=11.7, 7.2 Hz, 1H), 3.56 (d, J=10.7 Hz, 1H), 3.46 (m, 1H), 3.35 (dd, J=11.4, 6.8 Hz, 1H), 2.71 (dd, J=13.9, 3.6 Hz, 1H), 2.58 (dt, J=13.9, 7.0 Hz, 1H), 2.25 (t, J=12.6 Hz, 1H), 2.04 (s, 1H), 1.43 (s, 9H), 1.32 (d, J=6.2 Hz, 3H), 1.21 (dd, J=7.0, 0.9 Hz, 6H); ESIMS m/z 471.9 ([M+Na]1).

reactant | tert-butyl-(3S,7S,8R,9S)-7-benzyl-8-hydroxy-9-methyl-2-oxo-1,5-dioxonan-3-ylcarbamate | 0.19 mmol, 72 mg | C(C)(C)(C)OC(N[C@@H]1C(O[C@H]([C@@H]([C@H](COC1)CC1=CC=CC=C1)O)C)=O)=O | C20H29NO6
reactant | isobutyryl chloride | 0.76 mmol, 80 μL | C(C(C)C)(=O)Cl | C4H7ClO
reactant | water | 1 mL | O | H2O
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | (3S,6S,7R,8S)-8-benzyl-3-(tert-butoxycarbonylamino)-6-methyl-4-oxo-1,5-dioxonan-7-yl isobutyrate | 45 mg, 53% | C(C(C)C)(=O)O[C@H]1[C@@H](OC([C@H](COC[C@@H]1CC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O)C | C24H35NO7
